US08809342B2
At −40° C., isopropylmagnesium chloride lithium chloride (15.3 mL, 1.3M in THF, 19.9 mmol) was added dropwise to a solution of ethyl 4-iodobenzoate (5.00 g, 18.11 mmol) in tetrahydrofuran (30 mL). The solution was stirred at −40° C. for 40 minutes. Butyraldehyde (1830 mg, 25.4 mmol) was added. The reaction was allowed to warm to room temperature over 3 hours. The reaction was quenched with 1N HCl and extracted with ethyl acetate three times. The combined organic layers were dried over sodium sulfate, filtered and concentrated. The crude residue (1.0 g, 4.5 mmol) was combined with dichloromethane (16.7 mL), dimethylsulfoxide (4.79 mL), and triethylamine (2.28 g, 22.5 mmol) and cooled to 0° C. Sulfur trioxide pyridine complex (2.15 g, 13.5 mmol) was added in portions and the mixture was stirred at 0° C. for 1 hour. The reaction was allowed to gradually warm to room temperature and stir over 2 hours. The reaction was quenched with brine and diluted with dichloromethane. The layers were separated and the aqueous layer was extracted again with dichloromethane (20 mL). The combined organic layers were dried over sodium sulfate, filtered and concentrated. Purification by column chromatography (0-30% ethyl acetate in heptane) gave ethyl 4-butyrylbenzoate. 1H NMR (400 MHz, CDCl3, δ): 8.05-8.17 (m, 2 H), 7.92-8.04 (m, 2 H), 4.40 (q, J=7.15 Hz, 2 H), 2.96 (t, J=7.22 Hz, 2 H), 1.69-1.86 (m, 2 H), 1.40 (t, J=7.12 Hz, 3 H), 1.00 (t, J=7.22 Hz, 3 H).

reactant | isopropylmagnesium chloride lithium chloride | 19.9 mmol, 1.3M, 15.3 mL | [Cl-].[Li+].C(C)(C)[Mg]Cl
reactant | ethyl 4-iodobenzoate | 18.11 mmol, 5.00 g | IC1=CC=C(C(=O)OCC)C=C1 | C9H9IO2
reactant | Butyraldehyde | 25.4 mmol, 1830 mg | C(CCC)=O | C4H8O
reactant | triethylamine | 22.5 mmol, 2.28 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | dimethylsulfoxide | 4.79 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 16.7 mL | ClCCl | CH2Cl2
product | ethyl 4-butyrylbenzoate | C(CCC)(=O)C1=CC=C(C(=O)OCC)C=C1 | C13H16O3
